Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Bilateral intermittent claudication
 
Major Surgical or Invasive Procedure:
___
1. Ultrasound-guided puncture of the right common femoral
    artery.
2. Contralateral third-order catheterization of the
    superficial femoral artery.
3. Abdominal aortogram.
4. Serial arteriogram of the left lower extremity.
5. Balloon angioplasty of the left superficial femoral
    artery.
6. Perclose closure of the right common femoral
    arteriotomy.

 
History of Present Illness:
This is a ___ female with intermittent claudication of 
both extremities. Noninvasive arterial studies showed an ABI of 
0.8 on the left which
dropped down to 0.4 with exercise. Given these findings the
patient was consented for left lower extremity arteriogram
and possible angioplasty.

 
Past Medical History:
PMH: GERD, hyperlipidemia, migraines
PSH: s/p pubovaginal sling ___, s/p c-section
 
Social History:
___
Family History:
N/C
 
Physical Exam:
VS: 98.4    HR: 62    BP: 98/65    RR: 17     Spo2: 97%
Gen: NAD, alert and oriented x 3
Cardiac: RRR, no mrg, + S1, S1
Lungs: CTA bilaterally, no distress
abd: soft, nt, nd
Wound: Right groin without hematoma or bleed. 

Bilateral pedal pulses palpable
 
Pertinent Results:
___ 06:15AM BLOOD Hct-35.4*
___ 06:15AM BLOOD UreaN-14 Creat-0.7 K-4.___ 
Taken to the OR. Post-operatively, the patient did well.  She 
remained on bedrest for the appropriate time period.  After 
bedrest, the patient ambulated without difficulties.  There was 
no gross hematoma/pseudoaneurysmal formation noted on physical 
examination.  The patient was tolerating a regular diet.  
Voiding without difficulties.  

___ On the day of discharge, the creatinine was 0.7.  The 
patient is afebrile and denies any pain.  Discharged home. 

 
Medications on Admission:
HCTZ 25 qd, prilosec, vitamins
 
Discharge Medications:
1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily): no refills. .
Disp:*30 Tablet(s)* Refills:*0*
2. Oxycodone-Acetaminophen ___ mg Tablet Sig: Two (2) Tablet 
PO Q4H (every 4 hours) as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
3. Atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
5. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
6. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
7. Please take Zantac instead of Omeprazole while on Plavix
Duration: 1 month

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bilateral intermittent claudication
GERD, hyperlipidemia, migraines

 
Discharge Condition:
Stable

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Lower Extremity Angioplasty/Stent Discharge Instructions

Medications:
•Take Aspirin 325mg (enteric coated) once daily 
•If instructed, take Plavix (Clopidogrel) 75mg once daily
•Continue all other medications you were taking before surgery, 
unless otherwise directed
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

What to expect when you go home:
It is normal to have slight swelling of the legs:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
•It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•When you go home, you may walk and go up and down stairs
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•After 1 week, you may resume sexual activity
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate
•No driving until you are no longer taking pain medications
•Call and schedule an appointment to be seen in ___ weeks for 
post procedure check and ultrasound 

What to report to office:
•Numbness, coldness or pain in lower extremities 
•Temperature greater than 101.5F for 24 hours
•New or increased drainage from incision or white, yellow or 
green drainage from incisions
•Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
•Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

 
Followup Instructions:
___